US09034866B2
To a stirred mixture of 9-Bromo-4-cyclobutylamino-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (110 mg, 0.27 mmol) in TEA (5 mL) and DMF (1 mL) were added Pd(OAc)2 (6.0 mg, 0.027 mmol), PPh3 (21.1 mg, 0.081 mmol), CuI (10.2 mg, 0.054 mmol) and 2-methylbut-3-yn-2-ol (113 mg, 1.34 mmol). The reaction mixture was degassed with N2 and heated in autoclave at 80° C. overnight. Then the mixture was cooled to room temperature, and EtOAc was added. The mixture was filtered though Celite, and the filtrate was washed with saturated brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography (silica gel, EtOAc in hexane from 10% to 20%) to afford 4-Cyclobutylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (80 mg, 72%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.39 (d, J=2.1 Hz, 1H), 7.29 (d, J=2.2 Hz, 1H), 7.06 (d, J=8.4 Hz, 1H), 5.51 (s, 1H), 4.44 (m, 1H), 4.3 (m, 1H), 3.95 (m, 1H), 3.22 (m, 1H), 2.14 (m, 2H), 1.7 (m, 2H), 1.52 (m, 2H), 1.48 (s, 6H); LC-MS (ESI & APCI): 413.7 (M+1).

reactant | 9-Bromo-4-cyclobutylamino-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.27 mmol, 110 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)NC3CCC3 | C17H17BrN2O3S
reactant | PPh3 | 0.081 mmol, 21.1 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-methylbut-3-yn-2-ol | 1.34 mmol, 113 mg | CC(C)(C#C)O | C5H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.027 mmol, 6.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.054 mmol, 10.2 mg | [Cu]I
product | 4-Cyclobutylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 80 mg, 72% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)NC3CCC3 | C22H24N2O4S
